US07776875B2
Preparation of Intermediate E/Z-3-[5-bromo-2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z-4-[4-bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester (12.4 g, 23 mmol) in DCM (200 mL) at r.t. was added di-tert-butyl-dicarbonate (9.27 g, 42.4 mmol), followed by the addition of 4-dimethylaminopyridine (0.13 g) and triethylamine (16 mL, 114 mmol). The reaction mixture was stirred at 0° C. for 0.5 h and washed with 0.5N hydrochloric acid, dried over anhydrous Na2SO4, then the solvent was removed. The residue was purified by chromatography (20% EtOAc:hexanes) to give title compound as a yellow solid (Yield: 10.8 g, 74%).

reactant | Z-4-[4-bromo-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 23 mmol, 12.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)Br)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C25H26BrClN2O4
reactant | di-tert-butyl-dicarbonate | 42.4 mmol, 9.27 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 114 mmol, 16 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.13 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Z-3-[5-bromo-2-(1-tert-butoxycarbonyl-piperidin-4-yloxy)-benzylidene]-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield: 10.8 g, 74% | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Br)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C30H34BrClN2O6
